### PR TITLE
feat(ErdosProblems): 387

### LINKED ISSUE #704: Erdős Problem 387
### What is the conjecture
    
https://www.erdosproblems.com/387

  Is there an absolute constant $c>0$ such that, for all $1\leq k< n$, the binomial coefficient $\binom{n}{k}$ has a divisor in $(cn,n]$?

Status: open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by CoolRmal**
Closes #704

### CODE REVIEW

**Comment by YaelDillies** [comment]
This looks good to me except for the ugly proof

File: FormalConjectures/ErdosProblems/387.lean [hunk 1]
```diff
@@ -0,0 +1,77 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/387.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

I just want to see if the linter/ci check etc handles the new year...

Comment (CoolRmal) [reply FormalConjectures/ErdosProblems/387.lean]: Happy new year!

File: FormalConjectures/ErdosProblems/387.lean [hunk 2]
```diff
@@ -0,0 +1,72 @@
...
+    rw [← Nat.gcd_mul_right]
+    refine Nat.le_of_dvd ?_ (Nat.dvd_gcd ⟨(n - 1).choose (k - 1), ?_⟩ (dvd_mul_right _ _))
+    · exact Nat.gcd_pos_of_pos_right _ (by positivity)
+    · cases n <;> cases k <;> simp_all [Nat.succ_mul_choose_eq]
+  · exact Nat.le_of_dvd (by linarith) (gcd_dvd_right _ _)
+
+/-- Is it true for any `c < 1` and all `n` sufficiently large, for all `1 ≤ k < n`, `n.choose k`
+has a divisor in `(cn, n]`? This is a variant of `erdos_387` and appears in [Gu04]. -/
+@[category research open, AMS 11]
+theorem erdos_387.variant : answer(sorry) ↔ ∀ c : ℝ, c < 1 → ∀ᶠ n : ℕ in atTop, ∀ n k : ℕ, 1 ≤ k →
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/387.lean]:
```suggestion
theorem erdos_387.variant : answer(sorry) ↔ ∀ c : ℝ, c < 1 → ∀ᶠ n : ℕ in atTop, ∀ k : ℕ, 1 ≤ k →
```

File: FormalConjectures/ErdosProblems/387.lean [hunk 3]
```diff
@@ -0,0 +1,72 @@
...
+example : ∀ i < 15, ¬ 99215 - i ∣ Nat.choose 99215 15 :=
+  fun i hi => by interval_cases i <;> native_decide
+
+/-- The following is Schinzel's conjecture, which appears in [Gu04]. -/
+@[category research open, AMS 11]
+theorem erdos_387.schinzel : answer(sorry) ↔
+    ∀ᶠ k in atTop, ¬ IsPrimePow k → ∃ n : ℕ, ∀ i < k, ¬ n - i ∣ n.choose k := by
+  sorry
+
+/-- It is easy to see that `n.choose k` has a divisor in `[n / k, n]`.-/
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/387.lean]:
```suggestion
/-- It is easy to see that `n.choose k` has a divisor in `[n / k, n]`. -/
```
